### PR TITLE
[Merged by Bors] - feat: openness and closedness of the union of sets separated by neighbourhoods

### PR DESCRIPTION
**Pull request by scholzhannah**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Separation/SeparatedNhds.lean [hunk 1]
```diff
@@ -155,6 +155,37 @@ theorem union_left : SeparatedNhds s u → SeparatedNhds t u → SeparatedNhds (
...
+lemma isOpen_left_of_isOpen_union (hst : SeparatedNhds s t) (hst' : IsOpen (s ∪ t)) : IsOpen s := by
+  obtain ⟨u, v, hu, hv, hsu, htv, huv⟩ := hst
+  suffices s = (s ∪ t) ∩ u from this ▸ hst'.inter hu
+  rw [union_inter_distrib_right, (huv.symm.mono_left htv).inter_eq, union_empty,
+    inter_eq_left.2 hsu]
+
+lemma isOpen_right_of_isOpen_union (hst : SeparatedNhds s t) (hst' : IsOpen (s ∪ t)) : IsOpen t :=
+  hst.symm.isOpen_left_of_isOpen_union (union_comm _ _ ▸ hst')
+
+lemma isOpen_union_iff_isOpen (hst : SeparatedNhds s t) : IsOpen (s ∪ t) ↔ IsOpen s ∧ IsOpen t :=
```
Comment (urkud) [inline Mathlib/Topology/Separation/SeparatedNhds.lean:167]: Optional:
```suggestion
lemma isOpen_union_iff (hst : SeparatedNhds s t) : IsOpen (s ∪ t) ↔ IsOpen s ∧ IsOpen t :=
```
(+ same for `IsClosed`). Thanks!
bors d+
